US07355069B2
Methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]-benzoate (0.545 g, 1.251 mmol) was dissolved in EtOH (5 ml) and potassium hydroxide (0.105 g, 1.877 mmol) was added. The reaction was performed in a single node microwave oven (7 min, 150° C.). Workup was by removing the solvent by evaporation, addition of HCl (20 ml, 1 M) and the water phase was washed with two portions of EtOAc (20 ml). The organic phases were pooled and the solvent was removed by evaporation. The crude was purified by preparative HPLC (starting with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product-containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). The solvent was removed by evaporation to give 0.124 g of 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid (23.5%).

reactant | Methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]-benzoate | 1.251 mmol, 0.545 g | C(C)N(C(CC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C26H26FNO4
reactant | potassium hydroxide | 1.877 mmol, 0.105 g | [OH-].[K+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid | 0.124 g, 23.5% | C(C)N(C(CC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C25H24FNO4
